US06331640B1
A mixture of 4-bromomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (150 mg, 0.508 mmol) and sodium azide (132 mg, 2.0 mmol) in N,N-dimethylformamide (1.5 mL) was heated in a 90° C.-oil-bath for 30 min, then allowed to cool, and poured into water (5 mL). The mixture was extracted with ether (2×10 mL), dried (MgSo4), filtered, evaporated, and dried under high vacuum overnight to give 4-azidomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (124 mg, 95%) as a yellow oil.

reactant | 4-bromomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.508 mmol, 150 mg | BrCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15BrN2O
reactant | sodium azide | 2.0 mmol, 132 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 4-azidomethyl-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 124 mg, 95% | N(=[N+]=[N-])CC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15N5O
